US08609675B2
A mixture of tert-butyl (7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl(tetrahydro-2H-pyran-4-yl)carbamate (Int-8f, 35 mg), 4N HCl in dioxane (0.3 mL) and dioxane (2 mL) was heated at 60° C. for 10 min. Concentration afforded crude tert-butyl (6-acetyl-7-amino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl(tetrahydro-2H-pyran-4-yl)carbamate (Int-8g), which was then heated under microwave conditions with N2H4.H2O (200 uL) and NMP (1.5 mL) first at 100° C. for 30 min and then at 200° C. for 1h. Purification with prep-LC provided N-((3-methyl-6-(quinolin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)tetrahydro-2H-pyran-4-amine (26),

reactant | tert-butyl (7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl(tetrahydro-2H-pyran-4-yl)carbamate | 35 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC1=CC=CC=C1C2)CN(C(OC(C)(C)C)=O)C2CCOCC2)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C42H64N6O6Si2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (6-acetyl-7-amino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl(tetrahydro-2H-pyran-4-yl)carbamate | C(C)(=O)C=1C(=NC=2N(C1N)N=CC2C=2C=NC1=CC=CC=C1C2)CN(C(OC(C)(C)C)=O)C2CCOCC2 | C28H32N6O4
